US07939666B2
Stage 3: (S)-[(3-Amino-benzyl)-tert-butoxycarbonyl-amino]-phenyl-acetic acid cyclopentyl ester
To a solution of (S)-[(3-nitro-benzyl)-tert-butoxycarbonyl-amino]-phenyl-acetic acid cyclopentyl ester (1.509 g, 3.32 mmol) in ethanol (10 ml) was added palladium on carbon (10%, 0.38 g, 0.36 mmol). The flask was evacuated and back-filled with hydrogen gas. The mixture was stirred overnight, then filtered through Celite, washed with ethanol (150 ml) and then concentrated to yield the desire product as a colourless oil (1.351 g, 96% yield). 1H NMR (300 MHz, CDCl3), δ: 7.19-7.42 (5H, m), 6.97 (1H, t, J=7.5 Hz), 6.46 (2H, dd, J=8.1, 16.5 Hz), 6.29 (1H, br s), 5.58 (1H, br s), 5.29 (1H, br s), 4.69 (1H, br s), 4.00 (1H, d, J=15.9 Hz), 3.74 (1H, q, J=6.9 Hz), 3.51 (2H, br s), 1.20-2.00 (17H, m)

reactant | (S)-[(3-nitro-benzyl)-tert-butoxycarbonyl-amino]-phenyl-acetic acid cyclopentyl ester | 3.32 mmol, 1.509 g | C1(CCCC1)OC([C@H](C1=CC=CC=C1)N(C(=O)OC(C)(C)C)CC1=CC(=CC=C1)[N+](=O)[O-])=O | C25H30N2O6
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.36 mmol, 0.38 g | [Pd] | Pd
product | (S)-[(3-Amino-benzyl)-tert-butoxycarbonyl-amino]-phenyl-acetic acid cyclopentyl ester | 1.351 g, 96% yield | C1(CCCC1)OC([C@H](C1=CC=CC=C1)N(C(=O)OC(C)(C)C)CC1=CC(=CC=C1)N)=O | C25H32N2O4
